US07601711B2
5-(4-tert-Butoxycarbonyl-[1,4]diazepane-1-carbonyl)-1H-indole-2-carboxylic acid ethyl ester
The title compound was synthesized in analogy to Example 1, from 1H-indole-2,5-dicarboxylic acid 2-ethyl ester, [1,4]diazepane-1-carboxylic acid tert-butyl ester and 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride, to afford the product as a white solid (69%).

reactant | 1H-indole-2,5-dicarboxylic acid 2-ethyl ester | CCOC(=O)C=1NC2=CC=C(C=C2C1)C(=O)O | C12H11NO4
reactant | [1,4]diazepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCNCCC1 | C10H20N2O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | Cl.C(C)N=C=NCCCN(C)C
product | 5-(4-tert-Butoxycarbonyl-[1,4]diazepane-1-carbonyl)-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)C(=O)N1CCN(CCC1)C(=O)OC(C)(C)C | C22H29N3O5
